US03983164
4-Carboxyphenoxy-(2'-methoxyphenyl) methane
4-Ethoxycarbonylphenoxy-(2'-methoxyphenyl) methane (14.3g.; 0.05 mole) in sodium hydroxide (100ml.; 10N) was heated under reflux with vigorous stirring for 18 hr. The mixture was then cooled, filtered and the sodium salt converted to the acid by refluxing with hydrochloric acid (6N) for 3 hours. The product was filtered off and recrystallised from acetic acid M.p. 181°-2°.

reactant | 4-Ethoxycarbonylphenoxy-(2'-methoxyphenyl) methane | 0.05 mole, 14.3g | C(C)OC(=O)C1=CC=C(OCC2=C(C=CC=C2)OC)C=C1 | C17H18O4
solvent | sodium hydroxide | 10N, 100ml | [OH-].[Na+]
product | 4-Carboxyphenoxy-(2'-methoxyphenyl) methane | C(=O)(O)C1=CC=C(OCC2=C(C=CC=C2)OC)C=C1 | C15H14O4
